US04853410
3,4-Dichlorophenyl Acetate
At room temperature, 3,4-dichlorophenol (298.5 g, 1.83 mol) was dissolved in 191 ml (207 g, 2.02 mol) of acetic anhydride in a 1 liter flask equipped with mechanical stirrer and condenser. Sulfuric acid (3 ml) was added, resulting in a strong exotherm. After 2 hours the mixture was poured into 2 liters of ice and water and extracted 3×1 liter diethyl ether. The organic layers were combined, washed 1×1 liter water, 2×1 liter saturated sodium bicarbonate and 1×1 liter saturated brine, dried over magnesium sulfate and stripped to yield title product as an orange oil, 375 g, tlc Rf 0.5 (1:1 diethyl ether:hexane).

reactant | 3,4-dichlorophenol | 1.83 mol, 298.5 g | ClC=1C=C(C=CC1Cl)O | C6H4Cl2O
reactant | acetic anhydride | 2.02 mol, 191 ml, 207 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | Sulfuric acid | 3 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | 3,4-Dichlorophenyl Acetate | C(C)(=O)OC1=CC(=C(C=C1)Cl)Cl | C8H6Cl2O2
